US04404332
Melamine and glyoxylic acid are dissolved in dimethylsulfoxide and heated to 50°-80° C. for 5-8 hours. The solvent is removed and replaced by methanol. Sulfuric acid is added as a catalyst and the mixture heated to reflux for 5-10 hours, at which the solution is dried with a drying agent, i.e., 3A molecular sieve. The catalyst is neutralized with base and the methanol removed. The remaining mixture is filtered to yield methyl melamine glycolate methyl ether.

reactant | Melamine | N1=C(N)N=C(N)N=C1N | C3H6N6
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | methyl melamine glycolate methyl ether | COCC(=O)O.CNC1=NC(=NC(=N1)N)N | InChI=1S/C4H8N6.C3H6O3/c1-7-4-9-2(5)8-3(6)10-4;1-6-2-3(4)5/h1H3,(H5,5,6,7,8,9,10);2H2,1H3,(H,4,5)
